US07781431B2
4-benzyl-6-cyclohexyl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid
A solution (0.15 M) of methyl 6-cyclohexyl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate in DMF at 0° C. was treated with NaH (3.5 eq., 60% dispersion in mineral oil), and the suspension was stirred at RT for 30 min then it was treated with benzyl bromide (2.5 eq.). The reaction mixture was stirred at RT for 3 h then it was diluted with Et2O and water then the layers were separated and the aqueous phase was extracted with AcOEt. The combined organic phase was dried and concentrated giving a residue that was purified by flash chromatography on silica gel (1:10 MeOH/DCM) affording the title compound (22%) as a solid.

reactant | methyl 6-cyclohexyl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 0.15 M | C1(CCCCC1)C=1C2=C(NC1C1=CC=CC=C1)C=C(S2)C(=O)OC | C20H21NO2S
reactant | NaH | 3.5 eq. | [H-].[Na+]
reactant | benzyl bromide | 2.5 eq. | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | CN(C)C=O | C3H7NO
solvent | Et2O | CCOCC | C4H10O
solvent | water | O | H2O
product | 4-benzyl-6-cyclohexyl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid | 22% | C(C1=CC=CC=C1)N1C2=C(C(=C1C1=CC=CC=C1)C1CCCCC1)SC(=C2)C(=O)O | C26H25NO2S
